US08283363B2
81.4 (2R)—N-(4-(cyclopropylamino)-3,4-dioxo-1-phenylbutan-2-yl)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamide
(2R)—N-(4-(cyclopropylamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamide was oxidized in analogy to reaction step 20.4. The reaction mixture was stirred overnight. Water was added, the precipitate formed was filtered, washed with water and dried in vacuo. The residue obtained was redissolved in dichloromethane, a few drops of HCl (4M in dioxane) and a few drops of diethylether were added. The resulting precipitate was filtered, washed with diethylether and dried in vacuo providing the title compound. ESI-MS [M+H]+=452.2.

reactant | (2R)—N-(4-(cyclopropylamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamide | C1(CC1)NC(C(C(CC1=CC=CC=C1)NC(=O)[C@@H]1N(C(CC1)=O)CC1=C(C=CC=C1)F)O)=O | C25H28FN3O4
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | HCl | 4M, a few drops | Cl | ClH
catalyst | diethylether | a few drops | C(C)OCC | C4H10O
product | (2R)—N-(4-(cyclopropylamino)-3,4-dioxo-1-phenylbutan-2-yl)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamide | C1(CC1)NC(C(C(CC1=CC=CC=C1)NC(=O)[C@@H]1N(C(CC1)=O)CC1=C(C=CC=C1)F)=O)=O | C25H26FN3O4
